US06673797B1
(1) Preparation of 6-(1-Benzenesulfonyl-5-methylthio-1H-pyrrolo[2,3-b]pyridin-2-yl)nicotinic Acid Ethyl Ester
To a solution of 2-benzenesulfonylamino-5-methylthio-3-iodo-pyridine (100 mg) in 1,4-dioxane (2.5 ml), 5-ethoxycarbonyl-2-trimethylsilylethynylpyridine (185 mg), bistriphenylphosphine palladium dichloride (9 mg), cuprous iodide (5 mg) and potassium acetate (37 mg) were added successively and the mixture was stirred in a sealed tube at 100° C. for 15 hours. After cooling, the reaction solution was poured into water, extracted with ethyl acetate, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was separated using silica gel preparative thin-layer chromatography (hexane:ethyl acetate=2:1) to obtain 110 mg of the desired product as an orange oil.

reactant | 2-benzenesulfonylamino-5-methylthio-3-iodo-pyridine | 100 mg | C1(=CC=CC=C1)S(=O)(=O)NC1=NC=C(C=C1I)SC | C12H11IN2O2S2
reactant | 5-ethoxycarbonyl-2-trimethylsilylethynylpyridine | 185 mg | C(C)OC(=O)C=1C=CC(=NC1)C#C[Si](C)(C)C | C13H17NO2Si
reactant | potassium acetate | 37 mg | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
product | 6-(1-Benzenesulfonyl-5-methylthio-1H-pyrrolo[2,3-b]pyridin-2-yl)nicotinic Acid Ethyl Ester | 110 mg | C(C)OC(C1=CN=C(C=C1)C1=CC=2C(=NC=C(C2)SC)N1S(=O)(=O)C1=CC=CC=C1)=O | C22H19N3O4S2
